US08809371B2
Sodium hydride (60% in oil) (28 mg) was added to a DMF (2.4 ml) solution containing 5-bromo-N-methylnicotinamide (100 mg), followed by stirring at 45° C. for 1 hour. Methyl iodide (43 μl) was added under ice cooling, followed by stirring at room temperature for 1 hour. A saturated aqueous ammonium chloride solution and ethyl acetate were added to the reaction mixture. The organic layer was collected, washed with saturated saline, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure. Hexane was added to the obtained residue, solid matter was collected by filtration, and a white solid of 5-bromo-N,N-dimethylnicotinamide (42 mg) was thus obtained.

reactant | Sodium hydride | 28 mg | [H-].[Na+]
reactant | 5-bromo-N-methylnicotinamide | 100 mg | BrC=1C=NC=C(C(=O)NC)C1 | C7H7BrN2O
reactant | Methyl iodide | 43 μl | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.4 ml | CN(C)C=O | C3H7NO
product | 5-bromo-N,N-dimethylnicotinamide | 42 mg | BrC=1C=NC=C(C(=O)N(C)C)C1 | C8H9BrN2O
